US06939928B1
(2) Synthesis of 1-(3-(1,1-dimethylpropyl)cyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)cyclohexane
To a solution of 2.38 g (8.5 mmol) of 3,6-di-tert-butylfluorene in 40 ml of THF, 5.7 ml (9.2 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. To the resulting red solution, a solution of 2.00 g (9.2 mmol) of 3-(1,1-dimethylpropyl)-6,6-dimethylfulvene in 30 ml of THF was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for one night. After the reaction solution was diluted with 100 ml of ether, 50 ml of water was added. The separated organic phase was washed with water and a saturated saline solution, then dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a liquid. The liquid was isolated and purified by column chromatography (silica gel, developing solvent: hexane) to obtain 1.88 g (3.80 mmol) of a white solid (yield: 45%). The analyzed values are given below.

reactant | 3,6-di-tert-butylfluorene | 8.5 mmol, 2.38 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 9.2 mmol, 5.7 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-(1,1-dimethylpropyl)-6,6-dimethylfulvene | 9.2 mmol, 2.00 g | CC(CC)(C)C=1C=CC(C1)=C(C)C | C13H20
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | 1-(3-(1,1-dimethylpropyl)cyclopentadienyl)-1-(3,6-di-tert-butylfluorenyl)cyclohexane | 3.80 mmol, 1.88 g, yield: 45% | CC(CC)(C)C1=CC(C=C1)C1(CCCCC1)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C | C37H50
